Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:5](=[C:6]([H:7])[H:8])([H:10])[H:11].[H:1][O:2][C:3]([H:4])=[C:9]=[C:12]([H:13])[H:14]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],0.0956015739507
[H:1][C:2]#[C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][O:4][C:5]([H:6])=[C:7]([H:8])[H:9],1.43889388593
[H:1][O:2][C:3]1=[C:4]([H:5])[C:6]([H:7])=[C:8]([H:9])[C:10]1[H:11]>>[H:1][O:2][C:3]/[C:10](=[C:8](/[C:6](=[C:4][H:5])[H:7])[H:9])[H:11],4.1765775448800015
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[O:9][C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:8][O:9][C:10]([H:11])([H:12])[H:13].[H:7],2.2238325591900003
[H:1][C:2].[O:3]=[C:4]=[C:5]([H:6])[O:7][H:8]>>[H:1][C:2][O:3]/[C:4]=[C:5](\[H:6])[O:7][H:8],-2.43334005047
[C:5]=[C:6]([H:7])[H:8].[H:1][O:2][C:3]([H:4])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C@@:3]([H:4])([C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-3.2784936739
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[H:8]>>[H:8].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])[H:7],3.98265501456
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C@@:11]1([H:12])[C:13][C:14]1([H:15])[H:16]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:14](=[C:13]=[C:11]([H:12])[H:16])[H:15],-2.87491624
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])=[C:13][H:14]>>[H:1][C:2]1=[C:3]([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])=[C:13]1[H:14],-4.88782773875
[C:6](#[C:7][H:8])[O:9][H:10].[O:1]=[C:2]=[C:3]([H:4])[H:5]>>[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6](=[C:7][H:8])[O:9][H:10],0.8832221969700002
[H:4].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[H:4],-3.99159007408
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])/[C:10]([H:11])=[C:12](\[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1]/[C:2]([C:3]([H:4])([H:5])[H:6])=[C:7]([H:8])\[C:10]([H:11])=[C:12](/[H:13])[C:14]([H:15])([H:16])[H:17].[H:9],1.71101911549
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:11].[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9][H:10],5.12449500919
[C:2](#[C:3][H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11].[O:1]>>[O:1]=[C:2]([C:3][H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11],-3.65325285817
[H:1][C:2]([H:3])=[C:4]=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:5]([C:6]([H:7])([H:8])[H:9])([H:11])[H:12].[H:1][C:2]([H:3])[C:4]#[C:10][C:13]([H:14])([H:15])[H:16],3.39397793996
[C:5]([H:6])[C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3]([H:4])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.521459188180001
[H:9].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])=[C:7]=[O:8]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])[C:7](=[O:8])[H:9],-2.69166827432
[H:1][O:2][C:3][C:4]([O:5][H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:7]([H:8])=[C:9]([H:10])[H:11].[H:1][O:2][C:3]#[C:4][O:5][H:6],2.96198823021
[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:3]([O:4][C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2],5.62696193293
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6](=[O:7])[C:8][H:9]>>[C:6]1[O:7][C:8]1[H:9].[O:1]=[C:2]=[C:3]([H:4])[H:5],0.737968511939
[H:1][O:2][C@@:3]([H:4])([O:5][C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:6]=[C:7]([H:8])[H:9].[H:1][O:2][C@@:3]([H:4])([O:5])[C:10]([H:11])([H:12])[H:13],3.45589017192
[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9])[C:10][H:11]>>[O:1]=[C:2]1[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]1[H:11],-4.3101282572800015
[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[H:8]>>[C:2](#[C:3][H:4])[C:5]([H:6])([H:7])[H:8].[O:1],2.71814174725
[H:10].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[O:9]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[O:9][H:10],-1.50985932527
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])=[C:8]([H:9])[H:10]>>[H:1][O:2][C:3]#[C:4][C:6]([H:7])=[C:8]([H:9])[H:10].[H:5],2.37723872964
[H:1][C:2][O:3][C:4]([O:5][C:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2].[O:3]=[C:4]([O:5][C:6][H:7])[C:8]([H:9])([H:10])[H:11],2.53110055311
[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])=[C:9][H:10]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-4.84860532474
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[O:10][H:11]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]#[C:9][O:10][H:11].[H:8],2.38233858055
[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15].[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15],-1.31832143083
[H:11].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]#[C:9][H:10]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]=[C:9]([H:10])[H:11],-2.40583977651
